US07504508B2
(2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenylamino)-propionamide was prepared from (2S,4R)-3-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenylamino)-propionic acid. The acid (0.060 g, 0.118 mmol) was dissolved in DMF (1.5 mL) at room temperature and HOBt (0.024 g, 0.177 mmol), HATU (0.068 g, 0.177 mol), and diisopropylethylamine (0.082 mL, 0.472 mmol) was added followed by ammonium chloride (0.014 g, 0.236 mmol) and stirred at room temperature for 18 h. The reaction was diluted with ethyl acetate, washed with 1N NaOH, 1N HCl and brine. The organics were dried over MgSO4, filtered and concentrated down. The crude residue was purified HPLC purification.

reactant | (2S,4R)-3-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenylamino)-propionic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)NCCC(=O)O)C)C1=CC=C(C=C1)Cl | C28H28ClN3O4
reactant | HOBt | 0.177 mmol, 0.024 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | 0.177 mol, 0.068 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.472 mmol, 0.082 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.236 mmol, 0.014 g | [Cl-].[NH4+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenylamino)-propionamide | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)NCCC(=O)N)C)C1=CC=C(C=C1)Cl | C28H29ClN4O3
